US03944575
A stirred mixture of 1,5-bis(3,4-dinitrophenoxy)naphthalene (6 g, 0.0122 mole) and 10 percent palladium on charcoal (0.6 g) in absolute ethanol (300 ml) was heated to reflux under nitrogen. A solution of hydrazine hydrate (8 ml) in ethanol (30 ml) was added dropwise over a period of 40 minutes. The reaction mixture was heated at reflux for 6 hours, chilled in an ice bath, and suction filtered through Celite filter aid into one liter of stirred, cold, concentrated hydrochloric acid. The resulting precipitate of hydrazine hydrochloride and the desired tetraamino hydrochloride was collected, partially dried, and dissolved in water (300 ml). Concentrated ammonium hydroxide solution (60 ml) was added and the resulting precipitate collected and vacuum dried to produce 4.5 g (90 percent) of the desired 1,5-bis(3,4-diaminophenoxy)naphthalene. Recrystallization from benzene gave a white product (melting point 230°-231°C).

reactant | 1,5-bis(3,4-dinitrophenoxy)naphthalene | 0.0122 mole, 6 g | [N+](=O)([O-])C=1C=C(OC2=CC=CC3=C(C=CC=C23)OC2=CC(=C(C=C2)[N+](=O)[O-])[N+](=O)[O-])C=CC1[N+](=O)[O-] | C22H12N4O10
reactant | hydrazine hydrate | 8 ml | O.NN
catalyst | palladium on charcoal | 0.6 g | [Pd] | Pd
solvent | ethanol | 300 ml | C(C)O | C2H6O
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 1,5-bis(3,4-diaminophenoxy)naphthalene | 4.5 g, 90 percent | NC=1C=C(OC2=CC=CC3=C(C=CC=C23)OC2=CC(=C(C=C2)N)N)C=CC1N | C22H20N4O2
